US07345180B2
3-Amino-5-methylpyrazole (970 mg) and diethyl acetomalonate (2.0 g) were dissolved in acetic acid (5 ml) and stirred for 3 hours at 120° C. The reaction mixture was cooled to room temperature and concentrated under reduced pressure, and ethanol was added to the residue which were then cooled to 0° C. Precipitated crystals were collected by filtration and washed with cold ethanol. The crystals were dried under reduced pressure to give ethyl 7-hydroxy-2,5-dimethylpyrazolo[1,5-a]pyrimidine-6-carboxylate (2.2 g, Y.:95%) as white crystals.

reactant | 3-Amino-5-methylpyrazole | 970 mg | NC1=NNC(=C1)C | C4H7N3
reactant | diethyl acetomalonate | 2.0 g | CCOC(=O)C(C(=O)C)C(=O)OCC | C9H14O5
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | ethyl 7-hydroxy-2,5-dimethylpyrazolo[1,5-a]pyrimidine-6-carboxylate | 2.2 g, 95% | OC1=C(C(=NC=2N1N=C(C2)C)C)C(=O)OCC | C11H13N3O3
